US06790844B2
Synthesis of 7-(4-ethylpiperazin-1-yl)-5-(4-propanesulfonylphenyl)thieno[2,3-c]pyridine dihydrochloride
The resulting compound and 7-(1-ethylpiperazin-4-yl)-5-bromothieno[2,3-c]pyridine (0.18 g) were reacted in the same manner as in Example 300-4, to give a reaction solution containing 7-(4-ethylpiperazin-1-yl)-5-(4-propanesulfonylphenyl)thieno[2,3-c]pyridine. To the resulting reaction solution were added ethyl acetate and 2N hydrochloric acid, and the resulting insoluble matters were filtered off. The aqueous layer was separated, while the organic layer was extracted with 2N hydrochloric acid. The aqueous layers were combined and washed with ethyl acetate. The pH of the solution was adjusted to pH 10 by adding a 8N aqueous sodium hydroxide thereto, and then the solution was extracted with ethyl acetate twice. It was washed with brine, dried over magnesium sulfate, and then the solvent was evaporated. The resulting residue was purified by NH silica gel column chromatography (ethyl acetate/n-hexane system), to give 0.19 g of the free compound of the title compound as a pale brown viscous oil.

reactant | 7-(1-ethylpiperazin-4-yl)-5-bromothieno[2,3-c]pyridine | 0.18 g | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)Br | C13H16BrN3S
reactant | 7-(4-ethylpiperazin-1-yl)-5-(4-propanesulfonylphenyl)thieno[2,3-c]pyridine | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)S(=O)(=O)CCC | C22H27N3O2S2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-ethylpiperazin-1-yl)-5-(4-propanesulfonylphenyl)thieno[2,3-c]pyridine dihydrochloride | 0.19 g | Cl.Cl.C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)S(=O)(=O)CCC | InChI=1S/C22H27N3O2S2.2ClH/c1-3-15-29(26,27)19-7-5-17(6-8-19)20-16-18-9-14-28-21(18)22(23-20)25-12-10-24(4-2)11-13-25;;/h5-9,14,16H,3-4,10-13,15H2,1-2H3;2*1H
